US09226922B2
(R)-1-(4-Formyl-3-methoxy-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea (114 mg, 0.196 mmol) was dissolved in THF (3 mL), cooled to −78° C., and charged with methylmagnesium bromide (0.196 mL, 0.588 mmol). The reaction was allowed to warm to 0° C. and stirred for 10 min. The reaction mixture was quenched with saturated ammonium chloride (3 mL), extracted with EtOAc (10 mL, ×2), washed with brine, dried over sodium sulfate, filtered, and concentrated in vacuo. The residue was dissolved in TFA (0.8 mL), charged with triethylsilane (0.031 mL, 0.196 mmol), and stirred at room temperature for 10 min. The reaction mixture was concentrated in vacuo and the residue was dissolved in DCM (2 mL) and TEA (1 mL) to free-base the product. The solvents were removed in vacuo and the residue was purified by flash chromatography (10-100% EtOAc/DCM) to give 1-(4-(1-hydroxyethyl)-3-methoxy-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-((R)-1-phenylethyl)urea. MS ESI calc'd. For C18H21N5O3 [M+1]+ 356. found 356.

reactant | (R)-1-(4-Formyl-3-methoxy-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea | 0.196 mmol, 114 mg | C(=O)C1=NC(=CC2=C1C(=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)OC)NC(=O)N[C@H](C)C2=CC=CC=C2 | C36H31N5O3
reactant | methylmagnesium bromide | 0.588 mmol, 0.196 mL | C[Mg]Br
reactant | triethylsilane | 0.196 mmol, 0.031 mL | C(C)[SiH](CC)CC | C6H16Si
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 1-(4-(1-hydroxyethyl)-3-methoxy-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-((R)-1-phenylethyl)urea | OC(C)C1=NC(=CC2=C1C(=NN2)OC)NC(=O)N[C@H](C)C2=CC=CC=C2 | C18H21N5O3
